US06949571B2
1-(2-Aminobenzothiazol-6-yl)-3-(2-cyanophenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one
150 mg of 1-(3-aminophenyl)-3-(2-cyanophenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one and 63 mg of ammonium thiocyanate were added to 2 ml of acetic acid. The mixture was stirred at room temperature for 1 hour, to which 0.022 ml of bromine was added, and further stirred for 1 hour. The reaction mixture was distributed into the ethyl acetate and water layers, and neutralized with 20% aqueous solution of potassium carbonate. The organic layer was washed with water, dried and concentrated, and the residue was refined by silica gel chromatography (ethyl acetate/hexane-based solvent), to obtain 58 mg of the subject compound.

reactant | 1-(3-aminophenyl)-3-(2-cyanophenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 150 mg | NC=1C=C(C=CC1)N1C(C(=CC(=C1)C1=NC=CC=C1)C1=C(C=CC=C1)C#N)=O | C23H16N4O
reactant | ammonium thiocyanate | 63 mg | [S-]C#N.[NH4+]
reactant | bromine | 0.022 ml | BrBr | Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Aminobenzothiazol-6-yl)-3-(2-cyanophenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 58 mg | NC=1SC2=C(N1)C=CC(=C2)N2C(C(=CC(=C2)C2=NC=CC=C2)C2=C(C=CC=C2)C#N)=O | C24H15N5OS
